US04540699
(v) 2-[2-(5-Methyl-4-imidazolylmethylthio)ethylamino]-5-(1-benzyl-2-oxopyridin-4-ylmethyl)pyrimidin-4-one
2-[2-(5-Methyl-4-imidazolylmethylthio)ethylamine (1.28 g) and 2-nitroamino-5-(1-benzyl-2-oxopyridin-4-ylmethyl)pyrimidin-4-one (2.47 g) were refluxed in pyridine (12 ml) for 20 hours. The reaction mixture was evaporated under reduced pressure and the glassy residue washed with hot water. The mixture was allowed to cool and the water was decanted to give the title compound as a residue. This residue was taken up in isopropanol, treated with ethanolic HCl, evaporated under reduced pressure and crystallised from ethanol-methanol to give 2-[2-(5-methyl-4-imidazolylmethylthio)ethylamino]-5-(1-benzyl-2-oxopyridin 4-ylmethyl)pyrimidin-4-one as a trihydrochloride salt (3.23 g): recrystallisation gave material with m.p. 185.5°-189° C.

reactant | 2-(5-Methyl-4-imidazolylmethylthio)ethylamine | 1.28 g | CC1=C(N=CN1)CSCCN | C7H13N3S
reactant | 2-nitroamino-5-(1-benzyl-2-oxopyridin-4-ylmethyl)pyrimidin-4-one | 2.47 g | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC1=CC(N(C=C1)CC1=CC=CC=C1)=O | C17H15N5O4
solvent | pyridine | 12 ml | N1=CC=CC=C1 | C5H5N
product | 2-[2-(5-Methyl-4-imidazolylmethylthio)ethylamino]-5-(1-benzyl-2-oxopyridin-4-ylmethyl)pyrimidin-4-one | CC1=C(N=CN1)CSCCNC1=NC=C(C(N1)=O)CC1=CC(N(C=C1)CC1=CC=CC=C1)=O | C24H26N6O2S
